US05614547
A solution of 1,3-diphenylpropanone (1.07 g; 5.09 mmol) in tetrahydrofuran (10 mL) was cooled to -23° C. and treated with an asymmetric reducing agent, (+)-B-chlorodiisopinocampheyl-borane (1.80 g; 5.60 mmol) in 20 mL THF, and the resulting solution was allowed to stand overnight at -23° C. After evaporating to dryness, the residue was treated with ether (65 mL) and diethanolamine (1.0 g) and stirred for 3 hrs. The mixture was then filtered to remove solids and concentrated, and the residue was purified using gradient elution (5% ethyl acetate/hexane to 10% ethyl acetate) on a silica gel column to obtain 660 mg (61%) of (1R)-1,3-diphenyl-1-propanol as a crystalline white solid, 1H NMR (360 Mhz; CDCl3): d 1.95-2.15 (m, 3H); 2.59-2.78 (m, 2H); 4.65 (dd, 1H, J=5.4, 7.8); 7.14-7.35 (m, 10H).

reactant | 1,3-diphenylpropanone | 5.09 mmol, 1.07 g | C1(=CC=CC=C1)CC(CC1=CC=CC=C1)=O | C15H14O
reactant | (+)-B-chlorodiisopinocampheyl-borane | 5.60 mmol, 1.80 g | B([C@H]1C[C@H]2C[C@@H]([C@@H]1C)C2(C)C)([C@H]3C[C@H]4C[C@@H]([C@@H]3C)C4(C)C)Cl | C20H34BCl
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | THF | 20 mL | C1CCOC1 | C4H8O
product | (1R)-1,3-diphenyl-1-propanol | 660 mg, 61% | C1(=CC=CC=C1)[C@@H](CCC1=CC=CC=C1)O | C15H16O
